US09402841B2
Step E: (S)-3-(7-fluoro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
A solution of (S)-tert-butyl 3-((7-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (70 mg, 0.15 mmol) in HCl/EtOAc (5 mL) was stirred at RT for 30 minutes. The mixture was subsequently concentrated in vacuo to give the title compound, which was used in the next step without further purification (60 mg, 100%). ESI-MS m/z [M+H]+ 316.

reactant | (S)-tert-butyl 3-((7-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 0.15 mmol, 70 mg | FC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H22FN5O4
solvent | HCl EtOAc | 5 mL | Cl.CCOC(=O)C
product | (S)-3-(7-fluoro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | FC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CNCC1)C1=NNC(N1)=O | C15H14FN5O2
